US07354932B2
Preparation of 2-{[[4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyl]-(2-methyl-5,6,7,8-tetrahydroquinolin-8-yl)-amino]-methyl}-benzoimidazole-1-carboxylic acid tert-butyl ester
To a solution of 2-[4-(2-methyl-5,6,7,8-tetrahydroquinolin-8-ylamino)-butyl]-isoindole-1,3-dione (210 mg, 0.578 mmol) in CH3CN (12 mL) was added 2-chloromethyl-benzoimidazole-1-carboxylic acid tert-butyl ester (200 mg, 0.751 mmol), potassium iodide (14 mg), and diisopropylethylamine (0.201 ml, 1.16 mmol). The reaction mixture was stirred at 60° C. for 17 hours. Saturated sodium bicarbonate (15 mL) was added and the mixture was extracted with CH2Cl2 (3×30 mL). The combined organic extracts were dried (MgSO4), filtered and concentrated. Purification of the crude material by column chromatography on silica gel (1:10 EtOAc:hexanes then EtOAc then 1:10 MeOH:EtOAc) provided the product as a clear oil (228 mg, 66%): 1H NMR (CDCl3): δ 1.23-1.31 (m, 2H), 1.46-1.58 (m, 2H), 1.63-1.73 (m, 1H), 1.68 (s, 9H), 1.73-1.85 (m, 1H), 1.89-1.98 (m, 1H), 2.10-2.18 (m, 1H), 2.40 (s, 3H), 2.60-2.83 (m, 5H), 3.50 (t, 2H, J=7.2 Hz), 4.20 (dd, 1H, J=9.6, 6.0 Hz), 4.50 (d, 1H, J=15.6 Hz), 4.72 (d, 1H, J=15.6 Hz), 6.79 (d, 1H, J=7.5 Hz), 7.14 (d, 1H, J=7.5 Hz), 7.19-7.24 (m, 2H), 7.63-7.69 (m, 3H), 7.74-7.81 (m, 3H).

reactant | 2-[4-(2-methyl-5,6,7,8-tetrahydroquinolin-8-ylamino)-butyl]-isoindole-1,3-dione | 0.578 mmol, 210 mg | CC1=NC=2C(CCCC2C=C1)NCCCCN1C(C2=CC=CC=C2C1=O)=O | C22H25N3O2
reactant | 2-chloromethyl-benzoimidazole-1-carboxylic acid tert-butyl ester | 0.751 mmol, 200 mg | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CCl | C13H15ClN2O2
reactant | potassium iodide | 14 mg | [I-].[K+]
reactant | diisopropylethylamine | 1.16 mmol, 0.201 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium bicarbonate | 15 mL | C([O-])(O)=O.[Na+]
solvent | CH3CN | 12 mL | CC#N | C2H3N
product | 2-{[[4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyl]-(2-methyl-5,6,7,8-tetrahydroquinolin-8-yl)-amino]-methyl}-benzoimidazole-1-carboxylic acid tert-butyl ester | 228 mg, 66% | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC(=NC21)C)CCCCN2C(C1=CC=CC=C1C2=O)=O | C35H39N5O4
